US06462198B1
N-(3-Cyclopropyl-[1,2,4]oxadiazol-5-yl)-2,2-diphenyl-acetamide
The title compound, white solid, m.p. 163° C. and MS: m/e=219 (M+) was prepared in accordance with the general method of example 44a from 3-cyclopropyl-[1,2,4]oxadiazol-5-ylamine (Helv. Chim. Acta, 49(1966), 1430-1432) and 2,2-diphenylacetic acid chloride.

reactant | 3-cyclopropyl-[1,2,4]oxadiazol-5-ylamine | C1(CC1)C1=NOC(=N1)N | C5H7N3O
reactant | 2,2-diphenylacetic acid chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
product | N-(3-Cyclopropyl-[1,2,4]oxadiazol-5-yl)-2,2-diphenyl-acetamide | C1(CC1)C1=NOC(=N1)NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C19H17N3O2
